US08012956B2
To a solution of benzyl 4-cyano-3-(cyclohexylamino)benzoate (66.2 mg, 0.198 mmol) in DMSO (2 mL) was added potassium carbonate (27.4 mg, 0.198 mmol) followed by 30% aqueous hydrogen peroxide (5 drops). The mixture was stirred at room temperature for 45 min, and was then diluted with ethyl acetate. Water was added and then the layers were separated. The aqueous phase was then extracted with ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography (40% ethyl acetate in hexanes) to provide benzyl 4-(aminocarbonyl)-3-(cyclohexylamino)benzoate (45.0 mg, 0.128 mmol, 64% yield) as a yellow film. 1H NMR (400 MHz, CDCl3): 7.81 (d, 1H), 7.46-7.32 (m, 7H), 7.16 (dd, 1H), 5.77 (br s, 2H), 5.36 (s, 2H), 3.48-3.38 (m, 1H), 2.05-1.98 (m, 2H), 1.80-1.72 (m, 2H), 1.66-1.59 (m, 1H), 1.45-1.23 (m, 4H); MS (EI) for C21H24N2O3: 353 (MH+).

reactant | benzyl 4-cyano-3-(cyclohexylamino)benzoate | 0.198 mmol, 66.2 mg | C(#N)C1=C(C=C(C(=O)OCC2=CC=CC=C2)C=C1)NC1CCCCC1 | C21H22N2O2
reactant | potassium carbonate | 0.198 mmol, 27.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
catalyst | hydrogen peroxide | 5 drops | OO | H2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl 4-(aminocarbonyl)-3-(cyclohexylamino)benzoate | 0.128 mmol, 45.0 mg, 64% yield | NC(=O)C1=C(C=C(C(=O)OCC2=CC=CC=C2)C=C1)NC1CCCCC1 | C21H24N2O3
